US08580762B2
(1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5,6-dichloro-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)cyclopentane-1,2-diol
7-((3aS,4R,6R,6aR)-6-(((3-(2-(5,6-Dichloro-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (377 mg, 0.513 mmol) was dissolved in a mixture of Trifluoroacetic Acid (7.1 ml) and Water (0.8 ml) which had been pre-cooled at 0° C. in an ice bath. The solution was stirred at 0° C. for 30 minutes, then warmed to and stirring was continued for 3 h at RT. The suspension was concentrated and the residue was taken up in 15 ml MeOH and concentrated. This procedure was repeated twice and the residue placed on high vacuum. The material was taken up in 10 ml MeOH (gave a slurry) and was treated with 500 mg K2CO3 and 0.2 ml of water. The mixture was allowed to stir for 1.5 hr, during which time the pH of the solution was −9. The mixture was filtered through a fine frit, the solids were washed with 20 ml MeOH and the filtrate was concentrated to yield an off white solid. The material was left on high vacuum overnight and purified by flash chromatography (SiO2, eluting with 10-12% 7N NH3 in CH3OH/CH2Cl2) to give the desired product (227 mg). 1H NMR (400 MHz, MeOD) δH ppm 8.06 (s, 1 H), 7.63 (m, 2 H), 7.21 (dd, J=3.63, 2.38 Hz, 1 H), 6.59 (d, J=3.52 Hz, 1 H), 4.32 (m, 1 H), 3.88 (m, 1 H), 3.01 (m, 0.5 H), 2.84 (m, 2 H), 2.70 (m, 0.5 H), 2.51 (m, 1 H), 2.40 (m, 2 H), 2.26 (m, 2 H), 2.17 (d J=7.05 Hz, 3 H), 2.11 (m, 2 H), 2.02 (m, 1 H), 1.90 (m, 3 H), 1.62 (m, 1 H), 1.49 (m, 1 H).

reactant | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5,6-Dichloro-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.513 mmol, 377 mg | ClC1=CC2=C(NC(=N2)CCC2CC(C2)N(C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1Cl | C38H45Cl2N7O4
reactant | K2CO3 | 500 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | Trifluoroacetic Acid | 7.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | Water | 0.8 ml | O | H2O
solvent | water | 0.2 ml | O | H2O
product | (1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5,6-dichloro-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)cyclopentane-1,2-diol | 227 mg | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(C)C2CC(C2)CCC2=NC1=C(N2)C=C(C(=C1)Cl)Cl)O)O | C26H31Cl2N7O2
